US05646308
A mixture of 0.9 g of 3,4-dihydro-3-hydroxy-2-methoxymethyl-N,2-dimethyl-6-nitro-2H-1-benzopyran-4-carbothioamide, 0.12 g of p-toluenesulfonic acid monohydrate and 25 ml of toluene was refluxed with heating for 2 hours. Ethyl acetate was added to the mixture. After it was washed with water and dried, the solvent was distilled. The resultant residue was purified according to silica gel column chromatography (developing solution. MeOH:CH2Cl2 =1:99) to obtain 600 mg of 2-methoxymethyl-N,2-dimethyl-6-nitro-2H-1-benzopyran-4-carbothioamide with a melting point of 146°-148° C.

reactant | 3,4-dihydro-3-hydroxy-2-methoxymethyl-N,2-dimethyl-6-nitro-2H-1-benzopyran-4-carbothioamide | 0.9 g | OC1C(OC2=C(C1C(NC)=S)C=C(C=C2)[N+](=O)[O-])(C)COC | C14H18N2O5S
reactant | p-toluenesulfonic acid monohydrate | 0.12 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-methoxymethyl-N,2-dimethyl-6-nitro-2H-1-benzopyran-4-carbothioamide | 600 mg | COCC1(OC2=C(C(=C1)C(NC)=S)C=C(C=C2)[N+](=O)[O-])C | C14H16N2O4S
